US03950353
N-(2-Dimethylaminoethyl)-N'-[2-(2-benzimidazolylmethylamino)ethyl]thiourea
N-(2-Benzimidiazolylmethyl)ethylenediamine, prepared by reacting ethylenediamine with 2-chloromethyl-benzimidazole by the procedure of Example 40, is reacted with 2-dimethylaminoethyl isothiocyanate by the procedure of Example 40 to give the title compound.

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 2-chloromethyl-benzimidazole | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | 2-dimethylaminoethyl isothiocyanate | CN(CCN=C=S)C | C5H10N2S
product | N-(2-Dimethylaminoethyl)-N'-[2-(2-benzimidazolylmethylamino)ethyl]thiourea | CN(CCNC(=S)NCCNCC=1NC2=C(N1)C=CC=C2)C | C15H24N6S
